US06673795B2
In analogy to the procedure described in example 38b, 4,6-dichloro-2-(2-hydroxy-ethyl-amino)-pyrimidine-5-carbonitrile was treated with cyclopropylamine in dioxane in the presence of N-ethyl-diisopropylamine at 90° C. to yield 4-chloro-6-cyclopropylamino-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=254.

reactant | 4,6-dichloro-2-(2-hydroxy-ethyl-amino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)Cl)NCCO | C7H6Cl2N4O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-chloro-6-cyclopropylamino-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NC1CC1)NCCO | C10H12ClN5O
